US05070089
ii) Methyl 4-(3,5-dimethoxy-4-hydroxybenzyl)-1-piperazinecarbodithioate hydrochloride
In 4 ml of chloroform was dissolved 500 mg of methyl 4-(3,5-dimethoxy-4-hydroxybenzyl)-1-piperazinecarbodithioate. To the solution was dropwise added under chilling with ice 1.46 ml of 1-N HCl/ether mixture. The solvent was then distilled off under reduced pressure. The residue was stirred overnight at room temperature together with 8 ml of ethyl acetate. Precipitated crystals were collected by filtration to give 529 mg of the desired compound as a white powder, m.p. 187°-188° C. (decomp.), yield 95.9%.

reactant | methyl 4-(3,5-dimethoxy-4-hydroxybenzyl)-1-piperazinecarbodithioate | 500 mg | COC=1C=C(CN2CCN(CC2)C(=S)SC)C=C(C1O)OC | C15H22N2O3S2
reactant | HCl ether | Cl.CCOCC
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | ice 1 | C[C@@H]1OC[C@@H]2[C@@H](O1)[C@@H]([C@H]([C@@H](O2)OC3[C@H]4COC(=O)[C@@H]4[C@@H](C5=CC6=C(C=C35)OCO6)C7=CC(=C(C(=C7)OC)O)OC)O)O.C1CN(P(=O)(OC1)NCCCl)CCCl.[NH2-].[NH2-].Cl[Pt+2]Cl
product | Methyl 4-(3,5-dimethoxy-4-hydroxybenzyl)-1-piperazinecarbodithioate hydrochloride | 529 mg, yield 95.9% | Cl.COC=1C=C(CN2CCN(CC2)C(=S)SC)C=C(C1O)OC | InChI=1S/C15H22N2O3S2.ClH/c1-19-12-8-11(9-13(20-2)14(12)18)10-16-4-6-17(7-5-16)15(21)22-3;/h8-9,18H,4-7,10H2,1-3H3;1H
